US07320993B1
b) 8,8-bis-(4-fluorophenyl)-oct-7-enyl bromide
31.9 g (80 mmol) 8-hydroxy-8,8-bis-(4-fluorophenyl)-octyl bromide dissolved in toluene are added to 0.3 g toluene sulfonic acid and the mixture is subsequently heated for an hour with water separator under reflux. After withdraw of the solvent, the residue is chromatographically purified over silica gel with petroleum ether/acetic acid ethyl ester (90/1): Yield 28.6 g (94%).

reactant | 8-hydroxy-8,8-bis-(4-fluorophenyl)-octyl bromide | 80 mmol, 31.9 g | OC(CCCCCCCBr)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C20H23BrF2O
reactant | toluene sulfonic acid | 0.3 g | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 8,8-bis-(4-fluorophenyl)-oct-7-enyl bromide | FC1=CC=C(C=C1)C(=CCCCCCCBr)C1=CC=C(C=C1)F | C20H21BrF2
